US06664247B2
To a solution of (5-cyclopropyl-2H-pyrazol-3-yl)-(2,6-dichloropyrimidin-4-yl)-amine (211 mg, 0.781 mmol) and 2-naphthalenethiol (125 mg, 0.781 mmol) in tert-butanol (5 mL) was added triethylamine (174 μL, 1.25 mmol) and the resulting mixture was heated at reflux for 15 hours. The reaction mixture was cooled to room temperature and partitioned between ethyl acetate and aqueous NaHCO3. The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, Hexane/AcOEt gradient) to afford [6-chloro-2-(naphthalen-2-ylsulfanyl)-pyrimidin-4-yl]-(5-cyclopropyl-2H-pyrazol-3-yl)-amine.

reactant | (5-cyclopropyl-2H-pyrazol-3-yl)-(2,6-dichloropyrimidin-4-yl)-amine | 0.781 mmol, 211 mg | C1(CC1)C=1C=C(NN1)NC1=NC(=NC(=C1)Cl)Cl | C10H9Cl2N5
reactant | 2-naphthalenethiol | 0.781 mmol, 125 mg | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | triethylamine | 1.25 mmol, 174 μL | C(C)N(CC)CC | C6H15N
solvent | tert-butanol | 5 mL | C(C)(C)(C)O | C4H10O
product | [6-chloro-2-(naphthalen-2-ylsulfanyl)-pyrimidin-4-yl]-(5-cyclopropyl-2H-pyrazol-3-yl)-amine | ClC1=CC(=NC(=N1)SC1=CC2=CC=CC=C2C=C1)NC=1NN=C(C1)C1CC1 | C20H16ClN5S
